US08404861B2
Production of 4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]-2-methyl-5-n-propylaniline (Compound No. 3-3)
2-Methyl-5-n-propyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline (1.6 g, 5 mmol) was dissolved in a 28% solution (9.6 g) of sodium methoxide in methanol, and the mixture was heated under reflux for 3 hr. After allowing to cool, the reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to give the desired compound (1.31 g).

reactant | 2-Methyl-5-n-propyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline | 5 mmol, 1.6 g | CC1=C(N)C=C(C(=C1)C(C(F)(F)F)(C(F)(F)F)F)CCC | C13H14F7N
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]-2-methyl-5-n-propylaniline | 1.31 g, yield: 79% | COC(C(F)(F)F)(C(F)(F)F)C1=CC(=C(N)C=C1CCC)C | C14H17F6NO
